US05677316
Ethyl (RS)-3-(N,N-dibenzylcarbamoyl)-1-((S)-α-methylbenzyl)-5-oxo-pyrrolidine-3-carboxylate
(RS)-3-Ethoxycarbonyl-1-((S)-α-methylbenzyl)-5-oxopyrrolidine-3-carboxylic acid (30.5 g) was dissolved in 1,2-dichloroethane (92 ml), and thionyl chloride (11 ml) and one drop of N,N-dimethylformamide were added. The mixture was refluxed for 2 hours and the reaction mixture was concentrated under reduced pressure. The obtained oil was dissolved in toluene (39 ml) and the mixture was dropwise added to a solution of dibenzylamine (23.7 g) and triethylamine (12.2 g) in toluene (130 ml) under ice-cooling. The mixture was stirred at room temperature for 3 hours. The reaction mixture was washed with water, a sodium hydrogencarbonate-10% aqueous hydrochloric acid solution and water, and dried over anhydrous magnesium sulfate to give the object compound.

reactant | (RS)-3-Ethoxycarbonyl-1-((S)-α-methylbenzyl)-5-oxopyrrolidine-3-carboxylic acid | 30.5 g | C(C)OC(=O)C1(CN(C(C1)=O)[C@H](C1=CC=CC=C1)C)C(=O)O | C16H19NO5
reactant | thionyl chloride | 11 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1,2-dichloroethane | 92 ml | ClCCCl | C2H4Cl2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | Ethyl (RS)-3-(N,N-dibenzylcarbamoyl)-1-((S)-α-methylbenzyl)-5-oxo-pyrrolidine-3-carboxylate | C(C1=CC=CC=C1)N(C(=O)C1(CN(C(C1)=O)[C@H](C1=CC=CC=C1)C)C(=O)OCC)CC1=CC=CC=C1 | C30H32N2O4
